US07968563B2
In step (5) of Reaction Scheme X, a 4-chloro-1H-imidazo[4,5-c]pyridine of Formula LVIII is reacted with 4-methoxybenzylamine to provide an N-(4-methoxybenzyl)-1H-imidazo[4,5-c]pyridin-4-amine of Formula LIX. The reaction can be carried out by combining a compound of Formula LVIII with excess N-(4-methoxybenzyl)amine and excess pyridine hydrochloride in a suitable solvent such as 2,2,2-trifluoroethanol and heating (150° C.) in a microwave reactor.

reactant | 4-chloro-1H-imidazo[4,5-c]pyridine | ClC1=NC=CC2=C1N=CN2 | C6H4ClN3
reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
product | N-(4-methoxybenzyl)-1H-imidazo[4,5-c]pyridin-4-amine | COC1=CC=C(CNC2=NC=CC3=C2N=CN3)C=C1 | C14H14N4O
